US04052455
Reaction of 4-styrylbenzamidine with 4-nitrostyrylsulfonyl chloride according to the procedure of Example 29 (a) provides N-(4-NITROSTYRYLSULFONYL)-4-STYRYLBENZAMIDINE.

reactant | 4-styrylbenzamidine | C(=CC1=CC=CC=C1)C1=CC=C(C(=N)N)C=C1 | C15H14N2
reactant | 4-nitrostyrylsulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6ClNO4S
product | N-(4-NITROSTYRYLSULFONYL)-4-STYRYLBENZAMIDINE | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC=C(C=C2)C=CC2=CC=CC=C2)=N)C=C1 | C23H19N3O4S
